US06610717B2
Synthesis of methyl 6-(2-aminoethoxy)methyl-4-(3-chlorophenyl)-5-(3,3-diphenylpropylcarbamoyl)-2-methyl-1,4-dihydropyridine-3-carboxylate:
0.12 g (0.20 mmol) of methyl 6-(2-chloroethoxy)methyl-4-(3-chlorophenyl)-5-(3,3-diphenylpropylcarbamoyl)-2-methyl-1,4-dihydropyridine-3-carboxylate and 0.030 g (0.20 mmol) of sodium iodide were dissolved in 2 ml of 2-propanol, and the obtained solution was stirred at 70° C. for 24 hours. The solvent was evaporated under reduced pressure. Dichloromethane was added to the residue, and sodium iodide thus precipitated was separated by the filtration. The filtrate was treated under reduced pressure, and 15 mg (0.23 mmol) of sodium azide and 2 ml of DMF were added thereto. The reaction mixture was stirred at 50° C. for 16 hours. Ethyl acetate was added thereto. After washing with water and saturated aqueous sodium chloride solution, the organic layer was concentrated under reduced pressure. The residue was purified by the silica gel chromatography (hexane/ethyl acetate=7/3) to obtain the title compound.

reactant | methyl 6-(2-chloroethoxy)methyl-4-(3-chlorophenyl)-5-(3,3-diphenylpropylcarbamoyl)-2-methyl-1,4-dihydropyridine-3-carboxylate | 0.20 mmol, 0.12 g | ClCCOCC1=C(C(C(=C(N1)C)C(=O)OC)C1=CC(=CC=C1)Cl)C(NCCC(C1=CC=CC=C1)C1=CC=CC=C1)=O | C33H34Cl2N2O4
reactant | sodium iodide | 0.20 mmol, 0.030 g | [I-].[Na+]
reactant | sodium azide | 0.23 mmol, 15 mg | [N-]=[N+]=[N-].[Na+]
reactant | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | 2-propanol | 2 ml | CC(C)O | C3H8O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 6-(2-aminoethoxy)methyl-4-(3-chlorophenyl)-5-(3,3-diphenylpropylcarbamoyl)-2-methyl-1,4-dihydropyridine-3-carboxylate | NCCOCC1=C(C(C(=C(N1)C)C(=O)OC)C1=CC(=CC=C1)Cl)C(NCCC(C1=CC=CC=C1)C1=CC=CC=C1)=O | C33H36ClN3O4
